US07037925B2
4-(4-Fluoro-2-methylanilino)-6-methoxy-3-quinolinecarboxamide
A mixture of 4-fluoro-2-methylaniline (0.025 mmol), 6-methoxy-4-chloro-3-quinolinecarboxamide (0.025 mmol), 50 μl 20% Acetic acid/Ethanol and 250 μl ethanol was refluxed for four hours. After cooling to room temperature the solvent was removed in vacuu.

reactant | 4-fluoro-2-methylaniline | 0.025 mmol | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 6-methoxy-4-chloro-3-quinolinecarboxamide | 0.025 mmol | COC=1C=C2C(=C(C=NC2=CC1)C(=O)N)Cl | C11H9ClN2O2
reactant | Acetic acid Ethanol | 50 μl | C(C)(=O)O.C(C)O
solvent | ethanol | 250 μl | C(C)O | C2H6O
product | 4-(4-Fluoro-2-methylanilino)-6-methoxy-3-quinolinecarboxamide | FC1=CC(=C(NC2=C(C=NC3=CC=C(C=C23)OC)C(=O)N)C=C1)C | C18H16FN3O2
